US08067408B2
2-Bromo-6-methylphenol
To a solution of o-cresol (20.0 g, 0.19 mol) and iPr2NH (2.63 mL, 18.5 mmol) in CH2Cl2 (500 mL), a solution of NBS (32.9 g, 0.19 mol) in CH2Cl2 (500 mL) was added dropwise over 7 h and the mixture was stirred over night at room temperature. The reaction mixture was acidified to pH=1 with conc. sulfuric acid and water (400 mL). The organic layer was separated, dried with Na2SO4, and concentrated under reduced pressure. 34.6 g of the crude product was obtained (yield: 97%). 1H NMR (400 MHz, CDCl3) δ 2.30 (s, 3 H), 5.54 (s, 2 H), 6.71 (t, J=7.6 Hz, 1 H), 7.05 (d, J=7.6 Hz, 1 H), 7.28 (d, J=8.0 Hz, 1 H).

reactant | o-cresol | 0.19 mol, 20.0 g | C1(=CC=CC=C1O)C | C7H8O
reactant | iPr2NH | 18.5 mmol, 2.63 mL | N(C(C)C)C(C)C | C6H15N
reactant | NBS | 0.19 mol, 32.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | water | 400 mL | O | H2O
product | 2-Bromo-6-methylphenol | 34.6 g, yield: 97% | BrC1=C(C(=CC=C1)C)O | C7H7BrO
